US07582625B2
(R)-1-(4-hydroxy-3,5-dimethyl -benzyl)-2-[1′-(2-methoxy-ethoxycarbonylmethyl)-4,4′-bipiperidinyl-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 3c from 80 mg (0.12 mmol) (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 18 μL (0.23 mmol) 2-methoxy-ethanol.

reactant | (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.12 mmol, 80 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C38H51N5O7
reactant | 2-methoxy-ethanol | 0.23 mmol, 18 μL | COCCO | C3H8O2
product | (R)-1-(4-hydroxy-3,5-dimethyl -benzyl)-2-[1′-(2-methoxy-ethoxycarbonylmethyl)-4,4′-bipiperidinyl-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)OCCOC)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C41H57N5O8
